US05236952
0.9 g of 2-fluoro-3-hydroxy-p-anisonitrile are dissolved in 10 ml of acetic anhydride and 0.5 ml of pyridine, whereupon the mixture is stirred at 120° for 2 hours. The reaction mixture is subsequently evaporated and the residue is partitioned between ice-water and methylene chloride. The organic phase is dried over sodium sulfate and evaporated, and the residue is recyrstallized from methylene chloride/hexane. There is obtained 3-cyano-2-fluoro-6-methoxyphenyl acetate of m.p. 90°-91°.

reactant | 2-fluoro-3-hydroxy-p-anisonitrile | 0.9 g | FC1=C(C#N)C=CC(=C1O)OC | C8H6FNO2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 3-cyano-2-fluoro-6-methoxyphenyl acetate | C(C)(=O)OC1=C(C(=CC=C1OC)C#N)F | C10H8FNO3
